US07192968B2
(1S,2S)-1-tert-Butoxycarbonylamino-2-methanesulfonyloxy-cyclohexane
(1S,2S)-2-tert-Butoxycarbonylamino-1-cyclohexanol (646 mg) was dissolved in pyridine (4 ml), methane-sulfonyl chloride (378 mg) was added with ice cooling, and the mixture was stirred for 5 hours. After diethyl ether was added to the reaction mixture and washed 5 times with water, the resultant organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain the title compound (630 mg) as colorless crystals.

reactant | (1S,2S)-2-tert-Butoxycarbonylamino-1-cyclohexanol | 646 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@H](CCCC1)O | C11H21NO3
reactant | methane-sulfonyl chloride | 378 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | (1S,2S)-1-tert-Butoxycarbonylamino-2-methanesulfonyloxy-cyclohexane | 630 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@H](CCCC1)OS(=O)(=O)C | C12H23NO5S
